* C:\Users\Administrador\Documents\TC1\tp4\TP-TC1\filtros\fig4.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 AC 1 0
L1 N001 N002 1m Rser=0
C1 N003 N002 10n
R1 N003 0 50
.ac dec 100 1k 1meg
.backanno
.end
