* c:\Users\Administrador\Documents\TC1\tp4\TP-TC1\mc_output\transitorio_11.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 PULSE(0 10 0 1n 1n 100u 200u 10)
R1 N002 N001 50.1958
C1 N002 P001 1.62894e-07
R2 P001 0 7.79837
L1 N002 P002 1m Rser=0
R3 P002 0 6.57406
.tran 300u
.backanno
.end
