* C:\Users\Administrador\Documents\TC1\tp4\TP-TC1\pcb\Filtro_pasa_bandas_200Hz_4K_Hz (1).asc
* Generated by LTspice 26.0.1 for Windows.
C1 N006 Vin 100n
R1 N006 0 15k
X§U1 N007 N003 Vcc -Vcc N003 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R4 N004 N003 2.2k
C2 N004 0 10n
X§U2 N005 N001 Vcc -Vcc Vout level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R6 N001 0 10k
V1 Vcc 0 15
V2 0 -Vcc 15
Vin Vin 0 AC 1
R7 N005 N004 22k
C3 N005 0 1n
C4 N007 N006 10n
R8 N007 0 150k
R§Pote Vout N002 10k
R3 N002 N001 4.7k
.ac dec 100 10 100k
* Library below included based on ModelFile attribute of instance X§U1, X§U2 (C:\Users\Administrador\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp.asy)
.lib UniversalOpAmp1.lib
.backanno
.end
